US05041638
3-(4-Methoxycarbonylphenyl)-1-trimethylsilyloxy-1-propene
9.61 g (50 mmol) 3-(4-Methoxycarbonylphenyl)propanal are dissolved, together with 8.3 ml (68 mmol) of trimethylchlorosilane and 18.1 ml (0.13 mol) of triethylamine, in 15 ml of absolute dimethyl formamide and the solution is heated under reflux for 2 hours under nitrogen. After cooling, the reaction mixture is diluted with a saturated bicarbonate solution and extracted with petroleum ether. The organic phase is washed 3 times with a saturated bicarbonate solution, dried with sodium sulphate and concentrated by evaporation. The residue is distilled under a high vacuum (distillation apparatus silylated). 11.06 g of a pale yellow, oily product are thus obtained in the form of a mixture of the cis- and trans-isomers.

reactant | 3-(4-Methoxycarbonylphenyl)propanal | 50 mmol, 9.61 g | COC(=O)C1=CC=C(C=C1)CCC=O | C11H12O3
reactant | trimethylchlorosilane | 68 mmol, 8.3 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 0.13 mol, 18.1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
solvent | bicarbonate | C([O-])(O)=O
product | 3-(4-Methoxycarbonylphenyl)-1-trimethylsilyloxy-1-propene | COC(=O)C1=CC=C(C=C1)CC=CO[Si](C)(C)C | C14H20O3Si
